US04550166
A 440 mg portion of 2-chloro-3,3'-bipyridine and 0.73 ml of anhydrous hydrazine were dissolved in 15 ml of pyridine and heated at 110° C. for 3 days. The volatiles were removed at reduced pressure, 10 ml of toluene was added and the volatiles again removed. The residue was partitioned between 125 ml of methylene chloride and 25 ml of saturated aqueous sodium carbonate. The organic layer was dried and the solvent removed at reduced pressure, giving an oily solid which was recrystallized from methylene chloride-hexane, giving 2-hydrazino-3,3'-bipyridine as a tan powder, mp 104.5°-107° C.

reactant | 2-chloro-3,3'-bipyridine | ClC1=NC=CC=C1C=1C=NC=CC1 | C10H7ClN2
reactant | hydrazine | 0.73 ml | NN | H4N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-hydrazino-3,3'-bipyridine | N(N)C1=NC=CC=C1C=1C=NC=CC1 | C10H10N4
